US06506747B1
To a solution of N,N-dimethylpropargyl amine (20 mmol) and perfluoroethyl iodide (20 mmol) in MeCN/H2O (35 mL, 4:3), cooled to 0° C., was added slowly a solution of Na2S2O4 (20 mmol) and NaHCO3 (20 mmol) in H2O (10 mL). After 20 minutes, volatile material was removed, and the residue was extracted with Et2O. The organic phase was washed with brine, dried over MgSO4, and evaporated to give the crude iodoalkene as a yellow oil (2.85 g, 43%). A mixture of the iodoalkene (8.5 mmol) and NH2NH2*H2O (42.5 mmol) in EtOH (13 mL,) was heated under reflux for 5 hours. The solvent was removed, and the residue was partitioned between NaHCO3 and CH2Cl2. The organic phase was washed with brine, dried over MgSO4, and evaporated to give 5-dimethylamino-3-trifluoromethylpyrazole (0.65 g, 40%).

reactant | N,N-dimethylpropargyl amine | 20 mmol | CN(C)CC#C | C5H9N
reactant | perfluoroethyl iodide | 20 mmol | FC(C(F)(F)F)(F)I | C2F5I
reactant | Na2S2O4 | 20 mmol | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 20 mmol | C(=O)(O)[O-].[Na+]
reactant | NH2NH2 | 42.5 mmol | NN | H4N2
solvent | MeCN H2O | 35 mL | CC#N.O
solvent | H2O | 10 mL | O | H2O
solvent | EtOH | 13 mL | CCO | C2H6O
product | 5-dimethylamino-3-trifluoromethylpyrazole | 0.65 g, 40% | CN(C1=CC(=NN1)C(F)(F)F)C | C6H8F3N3
